US07776983B2
Preparation of FC-1; [C4F9SO2N(CH3)CH2]2CHOC(O)CH═CH2
A three-necked round bottom 500 mL flask, fitted with a condenser, stirrer, nitrogen inlet, cooler and thermometer was charged with [C4F9SO2N(CH3)CH2]2CHOH (204.6 g; 0.30 mole) and MEK (250.0 g) under a nitrogen purge. The flask was heated and approximately 50 mL of MEK was distilled from the solution. The ensuing solution was cooled to 5° C. using an ice bath and triethylamine (30.3 g; 0.30 mole) was added. Acryloyl chloride (27.3 g; 0.30 mole) was added dropwise over about one hour, followed by MEHQ and phenothiazine. The temperature of the flask was held below 40° C. during these additions. The temperature of the mixture was elevated to 50° C. for one hour, then cooled to about 30° C., and washed with DI water (3×150 mL aliquots). Analysis of the resulting amber solution was consistent with the structure: [C4F9SO2N(CH3)CH2]2CHOC(O)CH═CH2.

reactant | [C4F9SO2N(CH3)CH2]2CHOH | 0.30 mole, 204.6 g | C(CN(C)S(=O)(=O)C(F)(F)C(F)(F)C(F)(F)C(F)(F)F)(CN(C)S(=O)(=O)C(F)(F)C(F)(F)C(F)(F)C(F)(F)F)O | C13H12F18N2O5S2
reactant | triethylamine | 0.30 mole, 30.3 g | C(C)N(CC)CC | C6H15N
reactant | Acryloyl chloride | 0.30 mole, 27.3 g | C(C=C)(=O)Cl | C3H3ClO
reactant | MEHQ | COC1=CC=C(C=C1)O | C7H8O2
reactant | phenothiazine | C1=CC=CC=2SC3=CC=CC=C3NC12 | C12H9NS
reactant | MEK | 250.0 g | CCC(=O)C | C4H8O
product | FC-1 | CN1C2CCC1CC(C2)OC(C3=CC=CC=C3)C4=CC=C(C=C4)Cl.Cl | InChI=1S/C21H24ClNO.ClH/c1-23-18-11-12-19(23)14-20(13-18)24-21(15-5-3-2-4-6-15)16-7-9-17(22)10-8-16;/h2-10,18-21H,11-14H2,1H3;1H
